US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid 2-methoxyethyl ester and 75 mmols of β-aminocrotonic acid 1-(4-chlorophenyl)-ethyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-(2-methoxyethyloxy)-carbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 1-(4-chlorophenyl)-ethyl ester of melting point 106° C (from ethanol).

reactant | 2,6-dimethyl-3-(2-methoxyethyloxy)-carbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 1-(4-chlorophenyl)-ethyl ester | ClC1=CC=C(C=C1)C(C)OC(=O)C=1C(C(=C(NC1C)C)OCCOC)C1C(C(=CC=C1)[N+](=O)[O-])=C=O | C26H27ClN2O7
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid 1-(4-chlorophenyl)-ethyl ester | 75 mmols, Yield: 72% | ClC1=CC=C(C=C1)C(C)OC(\C=C(\C)/N)=O | C12H14ClNO2
